US04931083
1-(3-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-5-methyl-1,2,4-1H-triazole
The process was carried out as was Example 9 above, starting with 0.8 g of sodium, 20 ml of methanol, 75 ml of dimethylsulfoxide, 7.8 g of 1-(3-chlorophenyl)-3-hydroxy-5-methyl-1,2,4-1H-triazole and 6.7 g of ethyl 2-bromopropionate. The yield was 7.8 g of the desired product, an oil.

reactant | sodium | 0.8 g | [Na] | Na
reactant | methanol | 20 ml | CO | CH4O
reactant | 1-(3-chlorophenyl)-3-hydroxy-5-methyl-1,2,4-1H-triazole | 7.8 g | ClC=1C=C(C=CC1)N1N=C(N=C1C)O | C9H8ClN3O
reactant | ethyl 2-bromopropionate | 6.7 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
product | 1-(3-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-5-methyl-1,2,4-1H-triazole | yield was 7.8 g | ClC=1C=C(C=CC1)N1N=C(N=C1C)OC(C)C(=O)OCC | C14H16ClN3O3
